US05294463
Synthesis of 6 bromohexanoyl chloride (Step 1)
58.5 g of (0.3 moles) of 6 bromohexanoic acid and 85 ml of oxalyl chloride are placed in a 250-ml flask with a magnetic agitator. The mixture is agitated and 1 milliliter of dimethylformamide (DMF) is added.

reactant | bromohexanoic acid | BrC(C(=O)O)CCCC | C6H11BrO2
reactant | oxalyl chloride | 85 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethylformamide | 1 milliliter | CN(C=O)C | C3H7NO
product | bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
